US03979458
A solution of 0.1 moles of 4,4-dimethoxybutanol in 50 ml. of dimethylformamide containing 0.1 moles of triphenylphosphine is allowed to react for 18 hours with 0.1 moles of carbon tetrabromide. The mixture is diluted with water and extracted with ether. The ether extracts are combined, washed with water, dried and evaporated to a crude product which is purified by distillation to yield 4,4-dimethoxybutylbromide. This bromide is then converted into the diethyl phosphonate using the procedure described in Example 2.

reactant | 4,4-dimethoxybutanol | 0.1 moles | COC(CCCO)OC | C6H14O3
reactant | dimethylformamide | 0.1 moles | CN(C=O)C | C3H7NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.1 moles | C(Br)(Br)(Br)Br | CBr4
solvent | water | O | H2O
product | 4,4-dimethoxybutylbromide | COC(CCCBr)OC | C6H13BrO2
